US04619790
Using the method described in Example 1, a solution of 165 g (=0.98 mole) of dodec-1-ene and 1.65 g (=0.28 mole equivalent) of cobalt in the form of dicobalt-octacarbonyl, and a mixture of 157 g of N-methylpyrrolidone and 23 g (=1.28 mole) of water, were hydrocarboxylated under a CO pressure of 300 bars at 190° C. Conventional working up gave a yield of 83% of tridecanoic acid, of which 60% consisted of the particularly valuable n-isomer. 13% of the olefin had not reacted and the remainder consisted of by-products, including 2% of dodecane.

reactant | dodec-1-ene | 0.98 mole, 165 g | C=CCCCCCCCCCC | C12H24
reactant | water | 1.28 mole, 23 g | O | H2O
reactant | N-methylpyrrolidone | 157 g | CN1C(CCC1)=O | C5H9NO
catalyst | cobalt | 0.28 mole, 1.65 g | [Co] | Co
product | tridecanoic acid | yield of 83% | C(CCCCCCCCCCCC)(=O)O | C13H26O2
